US04704161
A Grignard reagent was prepared under dry nitrogen by the addition over a 1 hour period of a solution comprising 10.9 g (0.10 mole) of ethyl bromide in 15 ml of anhydrous ether to a magnetically stirred suspension of 2.4 g (0.10 g atom) of clean magnesium metal turnings in 70 ml of dry ether. Stirring at 25° C. was continued for an additional hour and then a solution of 10.2 g (0.10 mole) of phenyl acetylene in 15 ml of dry ether was added over 30 minutes. The stirred solution was then heated at reflux for one hour, during which time the acetylenic Grignard reagent separated into a two phase grey-black liquid. After cooling, the two phase liquid was transferred under dry nitrogen to a 200 ml addition funnel followed by flushing with two 15 ml portions of dry ether. The contents of the funnel were rendered homogeneous, by efficient overhead mechanical stirring, and this mixture was added over 35 minutes to a magnetically stirred solution of 11.6 g (0.10 mole) of ethyl pyruvate in 80 ml of dry ether cooled to -20° C. The mixture was stirred at -20° C. for 2 hours and allowed to warm to room temperature overnight. The resulting yellow-orange solution was cautiously treated with 75 ml of saturated ammonium chloride solution and after stirring for 5 minutes, the phases were separated. The aqueous phase was extraced with two 60 ml portions of ether and the combined organic phases were washed with three 75 ml portions of brine and dried over MgSO4. After filtration and concentration at the stripper, a residual reddish-orange oil (19.6 g) was fractionated through a 15 cm Vigreux column to afford, after a small forerun, a single volatile fraction, b.p. 96.0°-105.0° C./0.10 mm. Redistillation of this cut provided 8.9 g (41% yield) of ethyl-2-hydroxy-2-methyl-4-phenylbutynoate, as a colorless, viscous oil, b.p. 98.0°-101.0° C./0.05 mm.

reactant | ethyl bromide | 0.10 mole, 10.9 g | C(C)Br | C2H5Br
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | phenyl acetylene | 0.10 mole, 10.2 g | C1(=CC=CC=C1)C#C | C8H6
reactant | ethyl pyruvate | 0.10 mole, 11.6 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | ammonium chloride | 75 ml | [Cl-].[NH4+]
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | ethyl-2-hydroxy-2-methyl-4-phenylbutynoate | 8.9 g, 41% yield | C(C)OC(C(C#CC1=CC=CC=C1)(C)O)=O | C13H14O3
